US06855711B1
Synthesis of 2-(1-hydroxyiminoethyl)-4-[4-(2-hydroxyethyl)piperazin-1-ylmethyl]phenol (6)
Hydroxylamine hydrochloride (63 mg, 0.9 mmol) and sodium bicarbonate (76 mg, 0.9 mmol) were dissolved in distilled water (1 ml). 2-Acetyl-4-[4-(2-hydroxyethyl)-piperazin-1-yl-methyl]phenol (85 mg, 0.3 mmol) in absolute methanol (2 ml) was added and the reaction mixture was stirred at 65° C. for 24 h. CHCl3 (20 ml) was then added, the organic phase washed with water followed by brine, dried over Na2SO4, filtered and evaporated to obtain the title product (52 mg, 81%).

reactant | Hydroxylamine hydrochloride | 0.9 mmol, 63 mg | Cl.NO
reactant | sodium bicarbonate | 0.9 mmol, 76 mg | C([O-])(O)=O.[Na+]
reactant | 2-Acetyl-4-[4-(2-hydroxyethyl)-piperazin-1-yl-methyl]phenol | 0.3 mmol, 85 mg | C(C)(=O)C1=C(C=CC(=C1)CN1CCN(CC1)CCO)O | C15H22N2O3
reactant | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 2-(1-hydroxyiminoethyl)-4-[4-(2-hydroxyethyl)piperazin-1-ylmethyl]phenol | 52 mg, 81% | ON=C(C)C1=C(C=CC(=C1)CN1CCN(CC1)CCO)O | C15H23N3O3
